US05489593
2-[(N-Methyl-N-(3-(1-methylethylamino)-2-pyridinyl)amino]ethylindol-2-carboxylate
Palladium black (110 mg) is added to 2-(N-methyl-N-(3-nitro-2-pyridinyl)amino)-ethyl indol-2-carboxylate (PREPARATION 37, 195 mg) in methanol (75 ml). The mixture is stirred under a hydrogen atmosphere (balloon) for 30 min at 20°-25°; filtered and concentrated to give a solid. The solid is dissolved in ethanol (12 ml) and treated with acetone (0.64 ml) and sodium cyanoborohydride (27 mg). Acetic acid is added to adjust to pH 5 as measured on moistened pH test paper. The mixture is stirred for 3.8 days during which time additional sodium cyanoborohydride (39 mg) is added in portions, adjusting the pH on each addition. The mixture is adjusted to pH 3 with aqueous hydrochloric acid (10%), neutralized with aqueous sodium hydroxide (5% ) and concentrated under reduced pressure to 5 ml. The residue is diluted with chloroform, washed with water, saturated aqueous potassium carbonate, saline and dried over magnesium sulfate. Removal of solvent under reduced pressure gives an oil which is chromatographed on silica gel (10 g, 230-400 mesh) eluting with a gradient of 10-50% ethyl acetate/hexane. The appropriate fractions are pooled and concentrated to give the title compound, mp 130°-131°.

reactant | 2-(N-methyl-N-(3-nitro-2-pyridinyl)amino)-ethyl indol-2-carboxylate | 195 mg | N1C(=CC2=CC=CC=C12)C(=O)OCCN(C1=NC=CC=C1[N+](=O)[O-])C | C17H16N4O4
reactant | sodium cyanoborohydride | 27 mg | C(#N)[BH3-].[Na+]
reactant | sodium cyanoborohydride | 39 mg | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethanol | 12 ml | C(C)O | C2H6O
solvent | methanol | 75 ml | CO | CH4O
catalyst | Palladium black | 110 mg | [Pd] | Pd
solvent | Acetic acid | C(C)(=O)O | C2H4O2
solvent | acetone | 0.64 ml | CC(=O)C | C3H6O
product | (N-Methyl-N-(3-(1-methylethylamino)-2-pyridinyl)amino]ethylindol-2-carboxylate | CN(C1=NC=CC=C1NC(C)C)CCOC(=O)C=1NC2=CC=CC=C2C1 | C20H24N4O2
